US07947715B2
Step 3: Preparation of 1-(3-chloro-4-methylphenyl)-3-(3,5-dibromo-4-fluorophenyl)-4,4,4-trifluoro-2-buten-1-one
To a stirred solution of 1-(3-chloro-4-methylphenyl)-3-(3,5-dibromo-4-fluorophenyl)-4,4,4-trifluoro-3-hydroxy-butan-1-one (1.40 g) in toluene (3 mL) at 80° C. was added thionyl chloride (0.68 g) and pyridine (0.46 g). The mixture was stirred at same temperature for 2 hours. The resulting mixture was then cooled to 5° C. and water (3 mL) was added, and the mixture was allowed to stir and warm to ambient temperature. The layers were separated, and the organic phase was poured into 2N aqueous sodium hydroxide solution (3 mL). After stirring 0.5 hour at room temperature, the organic layer was separated, washed with brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to afford the crude title compound as a yellow oil (1.37 g), which was used in the next step without purification.

reactant | 1-(3-chloro-4-methylphenyl)-3-(3,5-dibromo-4-fluorophenyl)-4,4,4-trifluoro-3-hydroxy-butan-1-one | 1.40 g | ClC=1C=C(C=CC1C)C(CC(C(F)(F)F)(O)C1=CC(=C(C(=C1)Br)F)Br)=O | C17H11Br2ClF4O2
reactant | thionyl chloride | 0.68 g | S(=O)(Cl)Cl | Cl2OS
reactant | pyridine | 0.46 g | N1=CC=CC=C1 | C5H5N
reactant | water | 3 mL | O | H2O
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(3-chloro-4-methylphenyl)-3-(3,5-dibromo-4-fluorophenyl)-4,4,4-trifluoro-2-buten-1-one | 1.37 g | ClC=1C=C(C=CC1C)C(C=C(C(F)(F)F)C1=CC(=C(C(=C1)Br)F)Br)=O | C17H9Br2ClF4O
